US07973051B2
ii) 3-(2-Methoxy-ethyl)-2-methyl-thiophene
To a suspension of NaOtBu (3.00 g, 31.3 mmol) in THF (25 mL) was added the above prepared 2-(2-methyl-thiophen-3-yl)-ethanol (3.56 g, 25 mmol) and then methyl iodide (2.34 mL, 37.5 mmol). After stirring at rt for 1 h the reaction mixture was diluted with TBME (150 mL) and washed with 0.5M HCl (50 mL), 0.1M Na2S2O3 (50 mL) and 10% brine. The aqueous layers were extracted with TBME (50 mL) and the combined organic layers were dried (Na2SO4) and evaporated affording 3.78 g (96.7%, GC 96.0%) crude product as a yellow oil which was used without purification in the next step.

reactant | NaOtBu | 31.3 mmol, 3.00 g | CC(C)(C)[O-].[Na+]
reactant | 2-(2-methyl-thiophen-3-yl)-ethanol | 25 mmol, 3.56 g | CC=1SC=CC1CCO | C7H10OS
reactant | methyl iodide | 37.5 mmol, 2.34 mL | CI | CH3I
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | TBME | 150 mL | CC(C)(C)OC | C5H12O
product | 3-(2-Methoxy-ethyl)-2-methyl-thiophene | COCCC1=C(SC=C1)C | C8H12OS
